US09332754B2
Production of 5-trifluoromethylthiopentyl-[4-methyl-3-(2,2,2-trifluoroethylsulfinyl)phenyl]ether (present compound No. A-0439)
In 100 ml of chloroform was dissolved 0.98 g (2.5 mmol) of 5-trifluoromethylthiopentyl-{4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}ether. Thereto was added, in portions in about 10 minutes, 0.58 g (2.5 mmol) of 3-chloroperbenzoic acid (purity: about 75%) at room temperature. A reaction was carried out for 1 hour. After confirmation of the completion of the reaction, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: a mixed solvent of n-hexane:ethyl acetate:triethylamine=5:1:0.01), to obtain 0.78 g (yield: 77%) of an intended product.

reactant | 5-trifluoromethylthiopentyl-{4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}ether | 2.5 mmol, 0.98 g | FC(SCCCCCOC1=CC=C(C(=C1)SCC(F)(F)F)C)(F)F | C15H18F6OS2
reactant | 3-chloroperbenzoic acid | 2.5 mmol, 0.58 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | n-hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-trifluoromethylthiopentyl-[4-methyl-3-(2,2,2-trifluoroethylsulfinyl)phenyl]ether | 0.78 g, yield: 77% | FC(SCCCCCOC1=CC(=C(C=C1)C)S(=O)CC(F)(F)F)(F)F | C15H18F6O2S2
